US08138197B2
Methyl 3-pyrrolidin-1-yl-5-(tetrazol-5-yl)benzoate
A trifluoroacetic acid (5 mL) solution of methyl 3-{[ethoxymethyl]tetrazol-5-yl}-5-pyrrolidin-1-ylbenzoate (127 mg) was stirred at room temperature for 2 hours and then at 80° C. for 2 hours. The reaction liquid was concentrated under reduced pressure, the residue was purified through reversed-phase high-performance liquid chromatography [acetonitrile/water+0.1% trifluoroacetic acid] to obtain the title compound as a yellow powder.

reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | methyl 3-{[ethoxymethyl]tetrazol-5-yl}-5-pyrrolidin-1-ylbenzoate | 127 mg | C(C)OCN1N=NN=C1C=1C=C(C(=O)OC)C=C(C1)N1CCCC1 | C16H21N5O3
product | Methyl 3-pyrrolidin-1-yl-5-(tetrazol-5-yl)benzoate | N1(CCCC1)C=1C=C(C(=O)OC)C=C(C1)C1=NN=NN1 | C13H15N5O2
